* 310V to 5V async buck, 150W
* D=16.1m, t_on=323n, Rload=167m
Vin in 0 310
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 100u
C1 out 0 220u
Rload out 0 167m
Vgate gate 0 PULSE(0 12 0 1n 1n 323n 20u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.probe V(*) I(*)
.end
